US07875645B2
4-(1-Benzyl-1H-imidazol-2-ylmethyl)-3,5-diethyl-1-methyl-1H-pyrazole was prepared from 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione and methylhydrazine in analogy to Example 190 b): light yellow viscous oil; MS (ISP): 309.2 ((M+H)+.).

reactant | 4-(1-benzyl-1H-imidazol-2-ylmethyl)-heptane-3,5-dione | C(C1=CC=CC=C1)N1C(=NC=C1)CC(C(CC)=O)C(CC)=O | C18H22N2O2
reactant | methylhydrazine | CNN | CH6N2
product | 4-(1-Benzyl-1H-imidazol-2-ylmethyl)-3,5-diethyl-1-methyl-1H-pyrazole | C(C1=CC=CC=C1)N1C(=NC=C1)CC=1C(=NN(C1CC)C)CC | C19H24N4
